US06596716B2
N-2-(2-thien-3-yl-5-thienyl)propyl 2-propanesulfonamide
2-[2-(thien-3-yl)-5-thienyl]propylamine To a −15° C. solution of 1.1 g (5.3 mmol) of the material prepared in step A and 1.05 g (5.35 mmol) of tosylmethyl isocyanide in 18 ml of DME, a hot solution of 1.07 g (9.54 mmol) of potassium tert-butoxide in 5 ml of tert-butanol was added slowly. The mixture was stirred at −5° C. for 45 min and 2 h at ambient temperature. Water was added and extracted three times with diethyl ether. The organic phase was dried over Na2SO4, filtered and concentrated in vacuo. The crude material was dissolved in 15 ml of diethyl ether and then was added to a suspension of 218 mg (5.75) of lithium aluminum hydride in 5 ml of diethyl ether. The mixture was stirred at ambient temperature for 2 h. Na2SO410H2O was added, and the mixture stirred for 30 min at ambient temperature. The solid was filtered and the organic solution was concentrated in vacuo. Chromatography (150 g of silica gel, ethyl acetate/hexane/methanol 10/10/1) of the residue afforded 250 mg (22%) of the title compound.

reactant | 2-[2-(thien-3-yl)-5-thienyl]propylamine | S1C=C(C=C1)C=1SC(=CC1)C(CN)C | C11H13NS2
reactant | tosylmethyl isocyanide | 5.35 mmol, 1.05 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium tert-butoxide | 9.54 mmol, 1.07 g | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
solvent | DME | 18 ml | COCCOC | C4H10O2
solvent | tert-butanol | 5 ml | C(C)(C)(C)O | C4H10O
product | N-2-(2-thien-3-yl-5-thienyl)propyl 2-propanesulfonamide | 250 mg, 22% | S1C=C(C=C1)C=1SC(=CC1)C(CNS(=O)(=O)C(C)C)C | C14H19NO2S3
